US05166198
a) Diethyl 4-acetoxy-3-(acetoxymethyl)butylphosphonate
Triethyl phosphite (6.58 g, 6.8 ml, 39.67 mmol) and 4-acetoxy-3-(acetoxymethyl)butyl iodide (5 g, 15.87 mmol) were stirred at 130° C. for 9 hours. The reaction mixture was then allowed to cool and the excess of triethyl phosphite was evaporated under reduced pressure. The product distilled at 235° C./0.3 mm Hg, yield 4.6 g, 75%. 1HNMR: δH (CDCl3) 1.33 (6H, t, J=7Hz, (OCH2CH3)2, 1.74 (5H, m, CHCH2CH2P), 2.06 (6H, s, 2xCOCH3), 4.12 (8H, m, (OCH2CH3)2, 2xCH2OAc). Found: C,47.29; H,7.83%. C13H25O7P 0.25 H2O requires C,47.48; H,7.81%.

reactant | Triethyl phosphite | 39.67 mmol, 6.8 ml, 6.58 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | 4-acetoxy-3-(acetoxymethyl)butyl iodide | 15.87 mmol, 5 g | C(C)(=O)OCC(CCI)COC(C)=O | C9H15IO4
product | Diethyl 4-acetoxy-3-(acetoxymethyl)butylphosphonate | C(C)(=O)OCC(CCP(OCC)(OCC)=O)COC(C)=O | C13H25O7P
